US07776847B2
A solution of N-tert-butyl-3-chlorobenzo[d]isothiazole-4-sulfonamide (280 mg, 0.92 mmol) in 1,3-diaminopropane (1 mL) was allowed to stir at room temperature for 2.5 h. The reaction mixture was then poured over water (10 mL), extracted with ethyl acetate and the combined organic layers was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give, upon trituration with ethyl ether, 3-(3-aminopropylamino)-N-tert-butylbenzo[d]isothiazole-4-sulfonamide (257 mg) as an off-white solid. 1H NMR (300 MHz, CD3OD): 8.02 (d, 1H), 7.85 (d, 1H), 7.70 (t, 1H), 3.74 (t, 2H), 3.02 (t, 2H), 1.87-1.95 (m, 2H), 1.24 ppm (s, 9H). MW=342 confirmed by LC-MS, tr=8.22 min (Method Y) MH+=343.

reactant | N-tert-butyl-3-chlorobenzo[d]isothiazole-4-sulfonamide | 0.92 mmol, 280 mg | C(C)(C)(C)NS(=O)(=O)C=1C=CC=C2C1C(=NS2)Cl | C11H13ClN2O2S2
reactant | water | 10 mL | O | H2O
reactant | 1,3-diaminopropane | 1 mL | NCCCN | C3H10N2
product | 3-(3-aminopropylamino)-N-tert-butylbenzo[d]isothiazole-4-sulfonamide | 257 mg | NCCCNC1=NSC=2C1=C(C=CC2)S(=O)(=O)NC(C)(C)C | C14H22N4O2S2
